US06969713B2
i) cis-1-(3-Cyanobenzenesulphonyl)-2,6-dimethyl-4-phenylmethylpiperazine
A solution of cis-4-benzyl-2,6-dimethylpiperazine (1 g), 4-N,N-dimethylaminopyridine(0.54 g), 3-cyanobenzenesulphonyl chloride (2.13 g) in pyridine (3 ml) were stirred at ambient temperature. After 1 h the mixture was partitioned between dichloromethane and water. The organic phase further washed with brine, collected, dried, (MgSO4) and solvent evaporated under reduced pressure to leave the subtitle compound as an orange gum. Yield: 1 g

reactant | cis-4-benzyl-2,6-dimethylpiperazine | 1 g | C(C1=CC=CC=C1)N1C[C@@H](N[C@@H](C1)C)C | C13H20N2
reactant | 3-cyanobenzenesulphonyl chloride | 2.13 g | C(#N)C=1C=C(C=CC1)S(=O)(=O)Cl | C7H4ClNO2S
solvent | pyridine | 3 ml | N1=CC=CC=C1 | C5H5N
product | cis-1-(3-Cyanobenzenesulphonyl)-2,6-dimethyl-4-phenylmethylpiperazine | C(#N)C=1C=C(C=CC1)S(=O)(=O)N1[C@H](CN(C[C@H]1C)CC1=CC=CC=C1)C | C20H23N3O2S
